* C:\Users\Adrian\Dropbox\uni\ED\Referate Laborator\Lab3.asc
V1 N003 0 5V
R2 N002 out 100
Q1 out N005 0 0 BC547B
R1 N005 in 20k
V2 in 0 PULSE(0 5 0 10ns 10ns 5u 100u)
C1 out 0 100p
V3 N001 0 5V
R4 N004 out_acc 100
Q2 out_acc N006 0 0 BC547B
R3 N006 in 20k
C2 out_acc 0 100p
L1 N003 N002 100µ
L2 N001 N004 100µ
D1 out_acc N001 1N4148
.model D D
.lib C:\Users\Adrian\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Adrian\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10u
.backanno
.end
